US06888032B2
Di(2-isopropylphenyl) sulfide
Cu(I) iodide (38 mg, 0.2 mmol) and potassium carbonate (276 mg, 2.0 mmol) were charged into a screw-capped test tube with Teflon-lined septum. The tube was evacuated and backfilled with argon (3 cycles). tert-Amyl alcohol (2-methyl-2-butanol) (1.0 mL, bench grade solvent without degassing and pre-drying), ethylene glycol (111 μL, 2.0 mmol, bench grade solvent), 2-isopropyliodobenzene (246 mg, 1.0 mmol) and 2-isopropylbenzenethiol (90% purity, 202 μL, 1.2 mmol) were added by syringes at room temperature. The tube was heated to 100° C. and stirred for 24 hours. The reaction mixture was then allowed to reach room temperature. Ethyl acetate (approx. 5 mL) and dodecane (227 μL, GC standard) were added. The aliquot was analyzed GC. The reaction mixture was then filtered and concentrated. The crude product was purified by column chromatography on silica gel using hexane as eluent to afford colorless oil as the titled product (245 mg, 91% yield). Rf=0.5 (hexane). 1H NMR (CDCl3, 300 MHz) δ 7.30 (d, 2 H, J=7.2 Hz), 7.18-7.24 (m, 2 H), 7.03-7.05 (m, 4 H), 3.50 (hept, 2 H, J=6.9 Hz), 1.25 (s, 3 H), 1.23 (s, 3 H). 13C NMR (CDCl3, 75 MHz) δ 149.2, 134.2, 132.1, 127.6, 126.7, 125.9, 30.9, 23.8. IR (neat, cm−1) 3058, 2962, 2929, 2867. MS (EI) m/z (relative intensity) 270 (100), 211 (90). HRMS (EI), Cald. for C18H22S 270.1442. Found 270.1445.

reactant | potassium carbonate | 2.0 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-Amyl alcohol | 1.0 mL | C(C)(C)(CC)O | C5H12O
reactant | ethylene glycol | 2.0 mmol, 111 μL | C(CO)O | C2H6O2
reactant | 2-isopropyliodobenzene | 1.0 mmol, 246 mg | C(C)(C)C1=C(C=CC=C1)I | C9H11I
reactant | 2-isopropylbenzenethiol | 1.2 mmol, 202 μL | C(C)(C)C1=C(C=CC=C1)S | C9H12S
reactant | dodecane | 227 μL | CCCCCCCCCCCC | C12H26
solvent | Ethyl acetate | approx. 5 mL | C(C)(=O)OCC | C4H8O2
product | Di(2-isopropylphenyl) sulfide | 245 mg, 91% yield | C(C)(C)C1=C(C=CC=C1)SC1=C(C=CC=C1)C(C)C | C18H22S
